US07598423B2
Synthesis of 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenylsulfanylmethyl)-benzyl]-benzoic acid methyl ester
Stir a mixture of 1-(2-Hydroxy-4-mercapto-3-propyl-phenyl)-ethanone (132 mg, 0.63 mmol), 3-(3-Iodomethyl-benzyl)-benzoic acid methyl ester (230 mg, 0.63 mmol), and cesium carbonate (410 mg, 1.26 mmol) in 2-butanone (6 ml) at room temperature under argon for 20 hours. Pour the mixture into water (60 ml) and extract with ethyl acetate (2×30 ml). Combine the organic extracts and wash with water, brine, then dry over sodium sulfate, filter and concentrate. Purify the crude product via silica chromatography eluting with 1:4 ethyl acetate:hexanes to give the title compound (240 mg, 85%). MS (m/z) 447 (M−H).

reactant | 1-(2-Hydroxy-4-mercapto-3-propyl-phenyl)-ethanone | 0.63 mmol, 132 mg | OC1=C(C=CC(=C1CCC)S)C(C)=O | C11H14O2S
reactant | 3-(3-Iodomethyl-benzyl)-benzoic acid methyl ester | 0.63 mmol, 230 mg | COC(C1=CC(=CC=C1)CC1=CC(=CC=C1)CI)=O | C16H15IO2
reactant | cesium carbonate | 1.26 mmol, 410 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 60 ml | O | H2O
solvent | 2-butanone | 6 ml | CC(CC)=O | C4H8O
product | 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenylsulfanylmethyl)-benzyl]-benzoic acid methyl ester | 240 mg, 85% | COC(C1=CC(=CC=C1)CC1=CC(=CC=C1)CSC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C27H28O4S
